US07361658B2
30 μl of triethylamine, 30 μl of morpholine, 45 mg of WSC.HCl and 30 mg of HOBt were added to 2 ml of a THF solution of 52 mg of 1-{3-chloro-5-[(4-(4-chlorothiophen-2-yl)-5-{[(3-methoxypropyl)(methyl)amino]methyl}thiazol-2-yl)carbamoyl]-2-pyridyl}piperidine-4-carboxylic acid hydrochloride, and the mixture was stirred overnight at room temperature. Chloroform was added to the reaction solution. The organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution, with water and with brine, and then dried over sodium sulfate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (eluent: chloroform:MeOH=100:1 to 50:1, hexane:EtOAc=2:1, then chloroform:MeOH=20:1), and suspended in 2 ml of diethyl ether. 2 ml of 4M HCl-EtOAc was added, and the precipitate was collected by filtration to obtain 25 mg of 5-chloro-N-(4-(4-chlorothiophen-2-yl)-5-{[(3-methoxypropyl)(methyl)amino]methyl}thiazol-2-yl)-6-[4-(morpholinocarbonyl)piperidino]nicotinamide hydrochloride.

reactant | morpholine | 30 μl | N1CCOCC1 | C4H9NO
reactant | WSC.HCl | 45 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-{3-chloro-5-[(4-(4-chlorothiophen-2-yl)-5-{[(3-methoxypropyl)(methyl)amino]methyl}thiazol-2-yl)carbamoyl]-2-pyridyl}piperidine-4-carboxylic acid hydrochloride | 52 mg | Cl.ClC=1C(=NC=C(C1)C(NC=1SC(=C(N1)C=1SC=C(C1)Cl)CN(C)CCCOC)=O)N1CCC(CC1)C(=O)O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 30 μl | C(C)N(CC)CC | C6H15N
product | 5-chloro-N-(4-(4-chlorothiophen-2-yl)-5-{[(3-methoxypropyl)(methyl)amino]methyl}thiazol-2-yl)-6-[4-(morpholinocarbonyl)piperidino]nicotinamide hydrochloride | 25 mg | Cl.ClC=1C(=NC=C(C(=O)NC=2SC(=C(N2)C=2SC=C(C2)Cl)CN(C)CCCOC)C1)N1CCC(CC1)C(=O)N1CCOCC1 | InChI=1S/C29H36Cl2N6O4S2.ClH/c1-35(6-3-11-40-2)17-24-25(23-15-21(30)18-42-23)33-29(43-24)34-27(38)20-14-22(31)26(32-16-20)36-7-4-19(5-8-36)28(39)37-9-12-41-13-10-37;/h14-16,18-19H,3-13,17H2,1-2H3,(H,33,34,38);1H
